US09023840B2
Step 3: 5-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropylethyl]pyrazine-2-carboxamide
5-{3-(Cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropylethyl]pyrazine-2-carboxamide (0.23 g) was dissolved in a solution of trifluoroacetic acid (2 mL) and methylene chloride (2 mL). The mixture was stirred at room temperature for 2 h, and concentrated to dryness under reduced pressure. The residue was purified by flash chromatography on a silica gel column with methanol in methylene chloride (0-5%) to afford an intermediate which was dissolved in methanol (3.0 mL). To the solution was added ethylenediamine (1.0 mL). The mixture was stirred at room temperature for 2 h. The mixture was concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with methanol in methylene chloride (0-5%) to afford the desired product (0.13 g). LCMS (M+H)+: m/z=468.5. 1H NMR (500 MHz, DMSO-d6): δ 12.13 (s, 1H), 8.96 (s, 1H), 8.65 (d, J=1.3 Hz, 1H), 8.44 (s, 1H), 8.30 (d, J=5.5 Hz, 1H), 8.20 (d, J=8.7 Hz, 1H), 8.00 (d, J=1.3 Hz, 1H), 7.67-7.61 (m, 1H), 7.52 (d, J=5.5 Hz, 1H), 7.09-7.04 (m, 1H), 4.82 (d, J=9.7 Hz, 2H), 4.56 (d, J=9.7 Hz, 2H), 3.77 (s, 2H), 3.50-3.28 (m, 1H), 1.22 (d, J=6.7 Hz, 3H), 1.15-0.98 (m, 1H), 0.49-0.39 (m, 1H), 0.39-0.30 (m, 1H), 0.29-0.22 (m, 1H), 0.22-0.15 (m, 1H).

reactant | 5-{3-(Cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropylethyl]pyrazine-2-carboxamide | 0.23 g | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)N[C@@H](C)C1CC1)N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C31H39N9O2Si
reactant | ethylenediamine | 1.0 mL | C(CN)N | C2H8N2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 3.0 mL | CO | CH4O
product | 5-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropylethyl]pyrazine-2-carboxamide | 0.13 g | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)N[C@@H](C)C1CC1)N1N=CC(=C1)C1=C2C(=NC=C1)NC=C2 | C25H25N9O
